US09328106B2
Intermediate 146 methyl 2-(2,6-difluoro-4-hydroxyphenyl)thiazole-4-carboxylate
To a suspension of methyl 2-bromothiazole-4-carboxylate (500 mg, 2.16 mmol), 2,6-difluoro-4-hydroxyphenylboronic acid (2 equiv., 767 mg) and potassium fluoride (3.3 equiv., 414 mg) in tetrahydrofuran (10 mL) and water (1 mL) was added bis(tri-tert-butylphosphine)palladium(0) (0.1 equiv., 110 mg) and the mixture was heated to 120° C. for 15 min in the microwave reactor. After in vacuo concentration, the reaction mixture was purified by CombiFlash (0 to 100% EtOAc in heptane) to provide 241 mg of the title compound as a ˜1:1 mixture with methyl 2-bromothiazole-4-carboxylate, which was used directly without further purification.

reactant | methyl 2-bromothiazole-4-carboxylate | 2.16 mmol, 500 mg | BrC=1SC=C(N1)C(=O)OC | C5H4BrNO2S
reactant | 2,6-difluoro-4-hydroxyphenylboronic acid | 767 mg, 2 equiv. | FC1=C(C(=CC(=C1)O)F)B(O)O | C6H5BF2O3
reactant | potassium fluoride | 414 mg, 3.3 equiv. | [F-].[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 110 mg, 0.1 equiv. | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | methyl 2-(2,6-difluoro-4-hydroxyphenyl)thiazole-4-carboxylate | 241 mg | FC1=C(C(=CC(=C1)O)F)C=1SC=C(N1)C(=O)OC | C11H7F2NO3S
